Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I didn't come by choice." 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
For further details surrounding the history and presentation, 
please see OMR including Dr. ___ initial consultation 
note dated ___ and Dr. ___ admission note dated 
___ 
. 
Briefly, this is a ___ year old single woman, originally from ___ 
___, currently a senior at ___, 
previously diagnosed with anxiety, no prior psychiatric 
hospitalizations or suicide attempts who presents to ___ via 
EMS from school due to concern for worsening depression, 
anxiety,
suicidal ideation with reported plan to overdose in the setting 
of numerous psychosocial stressors. 
. 
Per ___, associate director of ___ at 
___, patient had been reporting increasing 
anxiety and panic attacks as well as suicidal ideation, poor po 
intake with significant weight loss in the setting of academic 
stressors, recent break up with her boyfriend and interpersonal 
conflict with her family back in the ___. 
. 
On initial interview in the ED, patient reported she has been 
increasingly depressed and anxious, reporting that numerous 
things were happening to her "all at once," including pressure 
to perform at school, a break up with her boyfriend about 1 
month ago and ongoing interpersonal conflicts with her family in 
the ___. Patient reported she had been taking 
Clonazepam 2 mg and Xanax 2 mg at night for sleep. Reported 
adequate sleep only after taking these medications and despite 
this she will still wake up in the middle of the night with 
difficulty sleeping. Patient also reported about a 15 pound 
weight loss in the past month with decreased appetite, 
persistent nausea, sometimes vomiting liquids. Denied binging 
and purging. Reported more frequent panic attacks. Admitted to 
suicidal thoughts but denied specific intent or plan. Endorsed 
hearing people talking or walking around when she is not there, 
but had
difficulty elaborating.
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
Patient seen with ___ and Dr. ___, 
PGY-1. Upon interview with Ms. ___, who was a somewhat 
disorganized historian, she stated she came to the hospital 
after "my school told me I had to come in and I told them my 
number one priority is school... they called the ambulance and 
brought me here because they said I hadn't been doing well since 
___ and I have been getting worse." 
. 
Ms. ___ reported she had been seeing ___ at the ___ 
Health ___ because of an anxiety disorder, "I knew before 
that I had an anxiety disorder-- I would flip the fuck out over 
nothing..." Reported she came to ___ because "they think my 
mental health is not okay-- I've been crying and they made me 
fill out a paper and they were all 4's... I wouldn't kill 
myself, though." Reported, "I'm weak but I'm strong-- I want to 
show people I'm successful." Reported she felt supported by "all 
of my friends in the ___-- there were like 20 of them and they 
didn't want to leave me." Stated she has been crying recently in 
the setting of academic stressors. 
. 
Patient reported that she has found therapy useful, ___ has 
been great-- she's been helping me with school. States she has 
been taking Xanax and Clonazepam together because I had insomnia 
over the summer." Reported she had been prescribed trazodone 
prior to this, "but it didn't help." Patient admitted to taking 
more than prescribed at times and notes that her mother "was not 
okay with it." Stated she did not want to take an antidepressant 
on it, "I don't want to depend on it and then get depressed if I 
stop taking it."  
.
In terms of psychosocial stressors, patient reported that 3 
weeks ago, she broke up with her boyfriend of 7 months, who 
lives next door to her. Recently saw her ex-boyfriend with his 
new girlfriend, which she found upsetting. In addition, 
reported, "I have a very dysfunctional family." In addition, she 
is in her final semester at college studying ___ 
___, which
is difficult. Notes significant pressure, "I'm an ___ 
___ and so if I get a low grade, I may not be able to 
finish." 
. 
In the setting of the above stressors, patient reports she has 
not been eating as much with 15 pound weight loss since ___. 
Reports, "I cannot eat because the texture of food makes me 
nauseous." Reports history of anorexia at age ___ years old but 
denies intentional restriction or binging/purging at this time.  
Reported worrying about "everything" and becomes particularly 
"undone" when she feels she is out of control. Reports history 
of insomnia but states she has been sleeping well. Reports 
crying spells. Of note, states she has still been able to attend 
class with "okay" grades, currently a 3.0 GPA. Reports chronic 
history of impulsivity and tends to get into fights with her 
mother that have been physical from both sides in the past. 
Reports history of impulsive spending which she states is her 
baseline, noting she will use her parents' cred t card to buy 
expensive purses. Reports chronically rapid speech, noting, "I'm 
___ States she does feel paranoid that her family 
believes she is a "bad person because of how I was raised." 
Reports she is "a very sexual person" but no history of 
hypersexuality that is different from her baseline. No clear 
history of mania. 
. 
Patient does report some history of depression, "I cry and I 
don't know why." Denies changes in energy, noting, "I'm a very 
energetic person." Denies difficulties with concentration. 
Reports intermittent thoughts of suicide, but denies intent or 
plan. Reports seeing dogs in the corner of her eye at times and
hearing whispers at times. 
. 
 
Past Medical History:
Past psychiatric history:
- Diagnoses: Anxiety disorder, depression, anorexia as noted in
HPI 
- SA/SIB: Denies history of prior suicides/no SIB 
- Hospitalizations: none 
- Med Trials: Lexapro, trazodone, Xanax, Clonazepam 
- Psychiatrist: Dr. ___ in ___ in ___
- Therapist: ___ at ___

Past medical history:
- Anemia 

 
Social History:
Substance use history:
- Alcohol: Patient reports drinking about 4 drinks at a time, 
twice weekly with history of blackouts, about 1 per semester 
- Illicits: Denies
- Tobacco: smokes about 1 pack per week 
. 
Personal and Social History: ___
Family History:
Family psychiatric history:
- Diagnoses: mother is "crazy" but no formal diagnoses 
- SA/SIB: denies/denies
- Addictions: none 
 
Physical Exam:
*VS: 98.3    ___

PHYSICAL EXAMINATION:
General: young woman, appears emotionally distressed.
Well-nourished, well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. EOMI.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

NEUROPSYCHIATRIC EXAMINATION:
  Neurological:
    *station and gait: normal gait and station 
    *tone and strength: moves all four extremities spontaneously 

    abnormal movements: no tremors or adventitious movements
noted 
  *Appearance/Behavior: Appears stated age, dressed in hospital
gown, somewhat disheveled but with adequate hygiene and 
grooming,
cooperative with interviewer, good eye contact, no psychomotor
agitation or retardation noted 
  *Mood and Affect: "I don't know why I'm here"/labile
*Thought process: disorganized with looseness of associations,
+tangential at times 
*Thought Content: see above 
  *Judgment and Insight: limited/limited
  Cognition: awake, alert and oriented x3 
    *Attention, *orientation, and executive function: awake,
alert and oriented x3 
    *Memory: short and long term memory grossly intact 
   *Fund of knowledge: average 
    *Speech: loud at times, somewhat pressured, rapid 
    *Language: fluent, no paraphasic errors 

Discharge Examination: 
VS: T 98.0 PO; BP 103 / 70; HR 75; RR 18; SpO2 100% 

Appearance/Behavior- Casually groomed young ___ female; 
calm, composed, and warm on approach
Speech- Fluent ___, increased rate and volume, normal 
prosody
Mood/Affect- "I'm much better" / Full, congruent
Thought process- Goal oriented, predominantly linear, but 
occasionally tangential
Thought content- Denies SI/HI/AVH
Insight/Judgment- Fair/Fair
 
Pertinent Results:
___ 11:50AM   GLUCOSE-79 UREA N-5* CREAT-0.6 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-97 TOTAL CO2-24 ANION GAP-21*
___ 11:50AM   estGFR-Using this
___ 11:50AM   ALT(SGPT)-66* AST(SGOT)-58* ALK PHOS-60 TOT 
BILI-0.7
___ 11:50AM   ALBUMIN-4.5 CALCIUM-9.7 PHOSPHATE-3.4 
MAGNESIUM-2.0
___ 11:50AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:50AM URINE  UCG-NEGATIVE
___ 11:50AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:50AM   WBC-3.5* RBC-4.13 HGB-12.7 HCT-39.1 MCV-95 
MCH-30.8 MCHC-32.5 RDW-12.4 RDWSD-43.1
___ 11:50AM   NEUTS-41.4 ___ MONOS-9.8 EOS-3.5 
BASOS-0.9 IM ___ AbsNeut-1.44* AbsLymp-1.53 AbsMono-0.34 
AbsEos-0.12 AbsBaso-0.03
___ 11:50AM   PLT COUNT-280
 
Brief Hospital Course:
This is a ___ year old single woman, originally from ___ 
___, currently a senior at ___, 
previously diagnosed with anxiety, no prior psychiatric 
hospitalizations or suicide attempts who presents to ___ via 
EMS from school due to concern for worsening depression, 
anxiety, suicidal ideation with reported plan to overdose in the 
setting of numerous psychosocial stressors. 
. 
History from Ms. ___ was notable for apparent longstanding 
history of anxiety and "needing to be in control" beginning in 
childhood/adolescence with prior diagnosis of anorexia and 
recent worsening of symptoms with periods of affective 
instability, reactive mood, poor appetite with weight loss, 
insomnia treated
with benzodiazepines, periods of suicidal ideation without 
intent or plan. Mental status examination was notable for a 
somewhat reactive young woman with rapid speech, who appeared 
anxious, somewhat disorganized and tangential thought process 
who is currently denying suicidal ideation or thoughts of self 
harm, requesting to be discharged so she can complete her last 
semester at college. 
. 
Despite her initial presentation, in getting to know Ms. ___ 
it was felt that, rather than a primary mood disorder such as 
bipolar with mania or thought disorder, she rather suffered from 
severe anxiety; this, coupled with her cultural heritage, was 
thought to explain her emotional lability and excitability.  Ms. 
___ received a number of visitors over the course of her stay 
including her mother who flew from the ___ to 
support her.  Her social supports appear strong and it was 
ultimately determined that she was safe for discharge to her 
friends and family with immediate follow up from her therapist, 
___, and primary care through ___ 
___.  

#. Legal/Safety: Patient admitted to Deaconess ___ on a ___ 
and, upon admission, signed a CV, which was accepted. She 
maintained good behavioral control throughout her psychiatric 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. Of note, she consistently denied 
suicidal ideation or thoughts of self harm during her 
hospitalization, stating "I have too much to do" and was notably 
linear, goal and future oriented at time of discharge with plan 
to school to complete her semester. 

#. Generalized anxiety disorder: 
As above with collateral from her school and her sister which 
supported the diagnosis.  On initial presentation the patient 
appeared labile in affect with rapid, pressured speech and 
loosening of associations as well as grandiosity and concern for 
magical thinking (parents could influence her actions through 
thought insertion, her father's family could predict the 
future).  She was started on Geodon 40 mg BID and lamictal 50 mg 
daily for presumed psychosis vs mania which were later 
discontinued in favor of fluoxetine 10 mg daily for treatment of 
severe generalized anxiety disorder.  Offered diazepam 5 mg q4h 
PRN which patient complained made her drowsy but eased her 
anxiety; decreased dose to 2.5 mg q4h PRN with recommendation to 
taper down/off as an outpatient as tolerated. 

#. Substance use: as noted in HPI 
>> Ethanol: Reported h/o of drinking heavily on the weekends- 
claimed she could not quantify- to the point of blacking out.  
Was advised to cut back on her drinking and to abstain from 
binge drinking.  No signs/symptoms of withdrawal while on the 
unit.

>> Tobacco: Reported smoking 1 PPD for the past 3 weeks.  
Offered nicotine patches and Nicorette gum PRN for cravings and 
was counseled on the importance of cessation.

#. Anorexia: by history, in remission with weight on admission= 
112.
Monitored and encouraged PO intake, which was good during her 
hospitalization. Labs, examination, and vital signs were 
reassuring; recommend follow up with her outpatient treaters for 
further evaluation and management 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 2 mg PO QHS 
2. ALPRAZolam 2 mg PO QHS 

 
Discharge Medications:
1.  Diazepam 2 mg PO TID PRN anxiety 
2.  FLUoxetine 10 mg PO DAILY  
3.  Nicotine Patch 14 mg TD DAILY  
4.  Nicotine Polacrilex 2 mg PO Q1H:PRN nicotine craving  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder 
Generalized anxiety disorder

 
Discharge Condition:
VS: T 98.0 PO; BP 103 / 70; HR 75; RR 18; SpO2 100%  

Appearance/Behavior- Casually groomed young ___ female; 
calm, composed, and warm on approach
Speech- Fluent ___, increased rate and volume, normal 
prosody
Mood/Affect- 'I'm much better' / Full, congruent
Thought process- Goal oriented, predominantly linear, but 
occasionally tangential
Thought content- Denies SI/HI/AVH
Insight/Judgment- Fair/Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___